US04883609
reacting 4-bromo-2,6-difluoroaniline with copper (I) cyanide and N-methyl-2-pyrrolidone to yield 4-cyano-2,6-difluoroaniline;

reactant | 4-bromo-2,6-difluoroaniline | BrC1=CC(=C(N)C(=C1)F)F | C6H4BrF2N
reactant | copper (I) cyanide | [Cu]C#N
solvent | N-methyl-2-pyrrolidone | CN1C(CCC1)=O | C5H9NO
product | 4-cyano-2,6-difluoroaniline | C(#N)C1=CC(=C(N)C(=C1)F)F | C7H4F2N2
